US04762839
5-Chloro-1-methylcarbamoylisatin (4.0 g) is dissolved in tetrahydrofuran (40 ml) and thereto are added 2-ethylisothiourea hydrobromide (4.0 g) and triethylamine (3.0 ml), and the mixture is stirred at room temperature for one hour. The reaction mixture is concentrated under reduced pressure to remove the solvent. To the residue [i.e. 6-chloro- 3-methyl-4-hydroxy-4-(2-ethylisothioureido)carbonyl-2-oxo-1,2,3,4-tetrahydroquinazoline] is added 10% hydrochloric acid (50 ml), and the mixture is stirred at 70°-80° C. for 3 hours. After cooling, the precipitates are taken by filtration to give 6-chloro-3-methyl-spiro[1,2,3,4-tetrahydroquinazoline-4,4'-imidazolidine]-2,2',5'-trione (2.5 g, yield 53.1%).

reactant | 5-Chloro-1-methylcarbamoylisatin | 4.0 g | ClC=1C=C2C(C(N(C2=CC1)C(NC)=O)=O)=O | C10H7ClN2O3
reactant | 2-ethylisothiourea hydrobromide | 4.0 g | Br.C(C)SC(N)=N
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 6-chloro-3-methyl-spiro[1,2,3,4-tetrahydroquinazoline-4,4'-imidazolidine]-2,2',5'-trione | 2.5 g, yield 53.1% | ClC=1C=C2C(=CC1)NC(N(C21NC(NC1=O)=O)C)=O | C11H9ClN4O3
